US08455613B2
Step 2: 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoic acid.
Dimethyl 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoate (1.23 g, 2.5 mmol) is transferred to a small round bottom flask equipped with a Teflon-coated stirbar. A mixture of THF:MeOH:H2O, 3:2:1, (10 mL) is added and the mixture is stirred for 1 hr. Then a 1 mL portion of 1M NaOH (aq) is added and the mixture is stirred overnight. The next day the water layer is isolated and extracted with 20 mL portions diethyl ether three times. Next the water layer is acidified to ˜pH 2. The water layer is extracted three times with 20 mL portions of dichloromethane. The organic layers are combined and dried with Mg2SO4. The organic solution is filtered and the solvent evaporated to obtain the product as an off-white solid (948 mg, 90% yield).

reactant | Dimethyl 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoate | 2.5 mmol, 1.23 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCC(=O)OC)CCC(=O)OC | C21H20Br2O4
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | O | H2O
product | 3,3′-(2,7-dibromo-9H-fluorene-9,9-diyl)dipropanoic acid | 948 mg, 90% yield | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCC(=O)O)CCC(=O)O | C19H16Br2O4
